US08378114B2
Production of N-[2-(2,4-dichloro-phenyl)-1-methylethyl]-2-trifluoromethylbenzamide (compound No. 1-32)
To a solution of crude [2-(2,4-dichlorophenyl)-1-methylethyl]amine (about 0.8 g, 3.9 mmol) and triethylamine (0.6 g, 5.9 mmol) in tetrahydrofuran (20 ml) was slowly added dropwise 2-trifluoromethylbenzoyl chloride (0.8 g, 3.8 mmol) at room temperature. After stirring at room temperature for 0.5 hr, water was added and the mixture was extracted with ethyl acetate. The organic layer was washed with 0.5N hydrochloric acid, saturated aqueous sodium hydrogen carbonate, and saturated brine, dried over anhydrous magnesium sulfate, and concentrated. The residue was purified by silica gel column chromatography and recrystallized from a mixed solvent of acetone/n-hexane to give a desired compound (white solid, yield; 0.4 g, 27%).

reactant | [2-(2,4-dichlorophenyl)-1-methylethyl]amine | 3.9 mmol, about 0.8 g | ClC1=C(C=CC(=C1)Cl)CC(C)N | C9H11Cl2N
reactant | triethylamine | 5.9 mmol, 0.6 g | C(C)N(CC)CC | C6H15N
reactant | 2-trifluoromethylbenzoyl chloride | 3.8 mmol, 0.8 g | FC(C1=C(C(=O)Cl)C=CC=C1)(F)F | C8H4ClF3O
reactant | water | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | N-[2-(2,4-dichloro-phenyl)-1-methylethyl]-2-trifluoromethylbenzamide | yield; 0.4 g, 27% | ClC1=C(C=CC(=C1)Cl)CC(C)NC(C1=C(C=CC=C1)C(F)(F)F)=O | C17H14Cl2F3NO
